US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-isobutyrylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 200 mg (0.85 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole, 130 μl (0.935 m mol) of triethyl amine and 20 ml of dichloromethane were added 98 μl (0.935 m mol) of isobutyryl chloride with stirring at the room temperature, followed by further stirring for four hours. After the completion of the reaction, the mixture was washed thrice with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was recrystallized from ethanol to obtain 109 mg (yield: 42%) of the pure intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethyl amine | 130 μl | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 98 μl | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-isobutyrylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 109 mg, yield: 42% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(C(C)C)=O)O)C | C15H19N3O4
